US08106043B2
2-Chloro-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone:
To a stirred solution of 6-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine (620 mg, 3.16 mmol) in THF (10 mL) was added 2-chloroacetyl chloride (0.277 mL, 3.48 mmol). The resulting mixture was then stirred at 60° C. for 10 minutes The mixture was then diluted with ethyl acetate and washed with water (3×), 1:1 water:saturated sodium carbonate, and brine. The organic phase was dried, filtered, and concentrated, giving the desired product (860 mg, 100%). 1H NMR (DMSO-d6) δ 8.36 (d, J=2.1 Hz, 1H), 7.96 (dd, J=8.7, 2.1 Hz, 1H), 7.52 (d, J=8.7 Hz, 1H), 4.63 (s, 2H), 3.99-3.92 (m, 2H), 3.39-3.33 (m, 2H); ESI-MS (m/z, %): 295 (M+Na, 68), 273 (MH+, 100), 197 (43).

reactant | 6-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 3.16 mmol, 620 mg | [N+](=O)([O-])C1=CC2=C(SCCN2)C=C1 | C8H8N2O2S
reactant | 2-chloroacetyl chloride | 3.48 mmol, 0.277 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 860 mg, 100% | ClCC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C10H9ClN2O3S
